Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tylenol / Motrin
 
Attending: ___
 
Chief Complaint:
dyspnea, altered mental status (AMS)
 
Major Surgical or Invasive Procedure:
intubation ___ AMS on ___ and extubated on the morning of ___
 
History of Present Illness:
Patient is a ___ yo male with history of asthma, presents now 
with dyspnea (onset while in police custody en route to jail s/p 
assaulting a police officer).

Pt dyspneic in ED but kept removing his nebulizer and became 
violent with staff.   Patient would not cooperate with blood 
draws or EKG or physician assessment after 10mg Haldol and 4mg 
Ativan.  Pt at one point attempted to escape the ED and was 
tackled to the ground by police with headstrike, no LOC.  NCCTH 
and CTCspine negative. Intubated for agitation and altered 
mental status.

Initial ED vent settings: 450 18 5 100% on versed 8 and fentanyl 
300

In the ED, initial vitals: 98.8 96 115/44 18 100% RA  
- Exam notable for agitated male pre intubation/sedation
- Labs were notable for: Hgb 13.5, positive urine opiates, 
positive urine cocaine, serum EtOH of 113, Cr 1.3
- Imaging:  CTHead NON CON & CT CSpine negative
- Patient was given:  
___ 22:20 IM Haloperidol 5 mg   
___ 22:20 IV/IM Lorazepam 2 mg  
___ 23:02 IH Albuterol 0.083% Neb Soln 1 NEB  
___ 23:02 IH Ipratropium Bromide Neb 1 NEB  
___ 23:03 IH Albuterol 0.083% Neb Soln 1 NEB  
___ 23:03 IH Ipratropium Bromide Neb 1 NEB  
___ 00:23 IV DRIP Midazolam  Started 8 mg/hr 
___ 00:23 IV DRIP Fentanyl Citrate  Started 300 mcg/hr 
___ 00:51 IV Etomidate 
___ 00:51 IV Succinylcholine 
- Consults: none 
 
On arrival to the MICU, pt intubated and sedated. RASS -5, 
unresponsive to sternal rub. 
 
Review of systems:  
(+) Per HPI  
(-) unable to obtain ___ intubation/sedation 

 
Past Medical History:
Asthma
 
Social History:
___
Family History:
unknown
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===============================
Vitals:  Afebrile HR 69 BP 134/68 100% on AC RR 15
GENERAL: intubated/sedated
HEENT: OGT, ETT
NECK: supple, no LAD
LUNGS: rhonchorous b/l, no wheezes
CV: RRR -m/r/g
ABD: soft, nt, nd, +BS
EXT: WWP
SKIN: no rashes, scattered tatoos
NEURO:  unable to assess
ACCESS:  2 PIV

DISCHARGE PHYSICAL EXAM:
=====================================
Vitals:  vitals stable and within normal limits
GENERAL: patient mentating appropriately
HEENT: head normocephalic, atraumatic
NECK: supple, no LAD
LUNGS: CTAB
CV: RRR -m/r/g
ABD: soft, nt, nd, +BS
EXT: WWP
SKIN: no rashes, scattered tatoos
NEURO:  no gross neurological deficits noted

 
Pertinent Results:
ADMISSION LABS:
===================================
___ 11:00PM   GLUCOSE-94 UREA N-14 CREAT-1.3* SODIUM-137 
POTASSIUM-4.6 CHLORIDE-99 TOTAL CO2-16* ANION GAP-27*
___ 11:00PM   estGFR-Using this
___ 11:00PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:00PM URINE  HOURS-RANDOM
___ 11:00PM URINE  HOURS-RANDOM
___ 11:00PM URINE  GR HOLD-HOLD
___ 11:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS* 
cocaine-POS* amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:00PM   WBC-8.6 RBC-4.54* HGB-13.5* HCT-37.9* MCV-84 
MCH-29.7 MCHC-35.6 RDW-13.2 RDWSD-39.8
___ 11:00PM   NEUTS-51.8 ___ MONOS-7.1 EOS-3.5 
BASOS-0.7 IM ___ AbsNeut-4.45 AbsLymp-3.13 AbsMono-0.61 
AbsEos-0.30 AbsBaso-0.06
___ 11:00PM   PLT COUNT-236
___ 11:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG

DIAGNOSTICS:
==============================
CXR (___):  Lung volumes are low, resulting in 
bronchovascular crowding.  Cardiomediastinal and hilar contours 
are unremarkable. No pneumothorax, pleural effusion, or 
consolidation. 

EKG (___):  sinus rhythm, normal rate, QTc 425, early 
repolarization precordial leads

CTHead NON CON (___): 
1. No acute intracranial process. 
2. Fluid and mucosal thickening involving multiple paranasal 
sinuses.  Recommend correlation with symptoms of acute 
sinusitis. 

CT Cspine (___): negative for acute fracture/malalignment

DISCHARGE LABS:
=================================
___ 05:17AM BLOOD WBC-6.2 RBC-4.19* Hgb-12.3* Hct-34.2* 
MCV-82 MCH-29.4 MCHC-36.0 RDW-13.1 RDWSD-38.6 Plt ___
___ 05:17AM BLOOD Plt ___
___ 05:17AM BLOOD Glucose-73 UreaN-10 Creat-1.0 Na-137 
K-3.9 Cl-101 HCO3-27 AnGap-13
___ 05:17AM BLOOD CK(CPK)-2773*
___ 11:00PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
Patient is a ___ yo male with pmhx of asthma p/w sob by police 
while en route to jail s/p assaulting a police officer who was 
intubated/sedated while exhibiting altered mental status, and 
exhibiting violent behavior.

#Intubated Status ___ Agitation/AMS in setting of intoxication. 
He was intubated on ___ and extubated without complication on 
the morning of ___. Patient was complaining of mild throat pain 
after extubation. 

#AMS: UTox +opiates +cocaine, blood alcohol content= 113; likely 
___ substance use. His mental status improved dramatically 
overnight, and he was discharged directly from the ICU into 
police custody. 

#AG Metabolic Acidosis: AG 22, HCO3 16. ABG Pc02. Etiology 
likely starvation ketoacidosis versus alcoholic ketoacidosis. 
Resolved with IVF and a normal diet. 

#Elevated Cr: 1.3, likely some component of ___. likely prerenal 
in etiology. Resolved with IV fluids. 

#Asthma: complaining of SOB en route to ED by police, noted to 
be dyspnic by ED and given nebulizer.  This resolved. 

#Transitional Issues
========================================
- will need follow up at a substance abuse center. 
 
Medications on Admission:
None.
 
Discharge Medications:
None. 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
- metabolic encephalopathy
- intoxication with cocaine, alcohol, opiates

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were seen at ___ because 
you were having trouble breathing. You were fighting with the 
medical team caring for you, so you were intubated overnight. 
Your breathing tube was taken out without complication. We think 
you were altered because of the alcohol, cocaine, and opiates 
that you were taking. We hope you seek treatment for your drug 
use in the future. 

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___